US07273877B2
Ethyl 1-(2-tert-butoxy-2-oxoethyl)-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate (510 mg, 0.99 mmol) was suspended in EtOH (120 mL), to which was added 1 M K2CO3 (80 mL). This mixture was stirred at R.T. for 15 h., then diluted with 1 M HCl (100 mL) and the resulting precipitate extracted into EtOAc (3×100 mL). The combined EtOAc fractions were washed with water (3×100 mL), brine (100 mL) and dried (Na2SO4). The solvent was then removed under reduced pressure to afford a crude solid which was purified by column chromatography on silica gel (5% MeOH/CH2Cl2 as eluant) to give 1-(2-tert-butoxy-2-oxoethyl)-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid as a white solid (64%), used directly in the next step. 1H NMR [(CD3)2SO, 400 MHz] δ 11.03 (v br s, 1H), 8.33 (s, 1H), 7.71 (dd, J=10.2, 1.9 Hz, 1H), 7.55 (dd, J=8.4, 1.0 Hz, 1H), 7.29 (t, J=8.3 Hz, 1H), 5.49 (s, 1H), 4.55 (s, 2H), 1.39 (s, 9H). HRMS (EI+) calcd C18H18FIN2O5 (M+) 488.0245, found 488.0247.

reactant | Ethyl 1-(2-tert-butoxy-2-oxoethyl)-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 0.99 mmol, 510 mg | C(C)(C)(C)OC(CN1C=C(C(=CC1=O)NC1=C(C=C(C=C1)I)F)C(=O)OCC)=O | C20H22FIN2O5
reactant | K2CO3 | 1 M, 80 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 120 mL | CCO | C2H6O
solvent | HCl | 1 M, 100 mL | Cl | ClH
product | 1-(2-tert-butoxy-2-oxoethyl)-4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | 64% | C(C)(C)(C)OC(CN1C=C(C(=CC1=O)NC1=C(C=C(C=C1)I)F)C(=O)O)=O | C18H18FIN2O5
